US05380819
(Synthesis example of phthalic anhydride group-containing PATE)
A titanium-lined autoclave was charged with 108 g of a poly(phenylene sulfide) (melt viscosity: 2800 poises) produced by Kureha Chemical Industry Co., Ltd., 500 g of NMP, 7 g of sodium hydroxide, 8.43 g (0.05 mole as S content) of hydrated sodium sulfide and 8.8 g of water. After the autoclave being purged with nitrogen gas, the contents were gradually heated up to 250° C. to react them for 30 minutes, thereby depolymerizing the poly(phenylene sulfide). Thereafter, the contents were cooled to room temperature. Then, 17.8 g (0.08 mole) of sodium hydrogen 4-chlorophthalate and 48.6 g of water were added to the autoclave, and the contents were heated up to 255° C. to react them for 2 hours.

reactant | NMP | 500 g | CN1CCCC1=O | C5H9NO
reactant | sodium hydroxide | 7 g | [OH-].[Na+]
reactant | sodium hydrogen 4-chlorophthalate | 0.08 mole, 17.8 g | ClC=1C=C(C(C(=O)O)=CC1)C(=O)[O-].[Na+]
catalyst | titanium | [Ti] | Ti
solvent | water | 48.6 g | O | H2O
solvent | water | 8.8 g | O | H2O
product | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
